US08026257B2
tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate.
tert-Butyl 4-(4-fluorophenyl)-4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate and tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate. To a solution of tert-butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (115 mg, 0.227 mmol) in dimethylformamide (2 mL) at 0° C. was added sodium hydride (60% in mineral oil, 18.1 mg, 0.45 mmol). After 5 min, the reaction was treated with iodomethane (0.028 mL, 0.45 mmol). After 30 min, the reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The organics were washed with water (3×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→75% EtOAc/Hex) gave two fractions. The faster eluting fraction was concentrated to give tert-butyl 4-(4-fluorophenyl)-4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (66 mg, 56%). The second fraction was concentrated to give tert-butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (26 mg, 22%). tert-Butyl 4-(4-fluorophenyl)-4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 8.03 (s, 1H), 7.98 (s, 1H), 7.31 (s, 1H), 7.17 (m, 2H), 6.91 (m, 2H), 4.72 (s, 2H), 4.03 (s, 3H), 3.67 (m, 2H), 3.46 (s, 2H), 3.02 (m, 2H), 2.10 (m, 2H), 1.79 (m, 2H), 1.44 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 162.3, 160.3, 139.6, 135.4, 128.7, 128.6, 124.7 (q, J=272 Hz), 123.3 (q, J=32 Hz), 122.9, 121.8, 120.3 (q, J=2.9 Hz), 118.4 (q, J=4.8 Hz), 115.8, 115.6, 80.4, 71.9, 51.8, 46.3, 40.3, 32.9. tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate: 1H-NMR (CDCl3, 500 MHz) δ 8.01 (s, 1H), 7.89 (s, 1H), 7.35 (m, 2H), 7.24 (s, 1H), 7.03 (m, 2H), 4.85 (s, 2H), 4.24 (s, 3H), 3.72 (m, 2H), 3.55 (s, 2H), 3.10 (m, 2H), 2.18 (m, 2H), 1.94 (m, 2H), 1.46 (s, 9H); 3C-NMR (CDCl3, 126 MHz) δ 162.4, 160.5, 155.1, 147.6, 138.7, 129.0, 128.9, 128.8, 125.6, 124.8 (q, J=273 Hz), 124.1 (q, J=32 Hz), 120.8, 118.8, 117.7 (q, J=4.8 Hz), 115.3, 115.1, 79.6, 79.4, 68.7, 41.4, 40.7, 40.2 (br), 32.2, 28.5.

reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((1-methyl-5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=NN(C12)C)C(F)(F)F | C27H31F4N3O3
reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC2=CN(N=C12)C)C(F)(F)F | C27H31F4N3O3
product | tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=NNC12)C(F)(F)F | C26H29F4N3O3
